US05089483
Lauryldimethylamine (21.3 grams, 0.1 mole) and metaboric acid (4.4 grams, 0.1 mole) were placed in a three-opening flask equipped with an evaporating device and a stirrer and heated at 140° to 150° C. for 1 hour with stirring. About 20 minutes after the onset of the reaction, the reacting content turns to be a nearly transparent, viscous solution. Water produced during the reaction was removed outside the reaction system passing through the evaporating device. After completion of the reaction, the reaction content was cooled down to room temperature, stirred with an addition of 200 ml of hexane to extract unreacted amine and then filtered. Insoluble cakes were crushed in a mortar in a powder form; 200 ml of hexane was added again and filtration was repeated 2 times after stirring at about 50° C. for 1 hour. The resulting residue was dried in air for 1 day and then at 60° C. for 2 hours in vacuo to obtain lauryldimethylamine tetraborate. Solubility of the above-mentioned compound in various solvents at 20° C. is shown in Table 2.

reactant | Lauryldimethylamine | 0.1 mole, 21.3 grams | C(CCCCCCCCCCC)N(C)C | C14H31N
reactant | metaboric acid | 0.1 mole, 4.4 grams | B(=O)O | BHO2
reactant | Water | O | H2O
solvent | hexane | 200 ml | CCCCCC | C6H14
product | lauryldimethylamine tetraborate | B(O)(O)O.B(O)(O)O.B(O)(O)O.B(O)(O)O.C(CCCCCCCCCCC)N(C)C | InChI=1S/C14H31N.4BH3O3/c1-4-5-6-7-8-9-10-11-12-13-14-15(2)3;4*2-1(3)4/h4-14H2,1-3H3;4*2-4H
